US09212154B2
By a method similar to that in Synthetic Example 7 except for the use of 2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester synthesized from D-cysteine by a method similar to that in Reference Example 2, N-acetyl-2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester was obtained (with the ratio of cis form:trans form of about 43:57 as confirmed by NMR).

reactant | 2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester | CCOC(=O)C1(SCC(N1)C(=O)O)C | C8H13NO4S
reactant | D-cysteine | N[C@H](CS)C(=O)O | C3H7NO2S
product | N-acetyl-2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester | CCOC(=O)C1(SCC(N1C(C)=O)C(=O)O)C | C10H15NO5S
